US04863920
2.72 g (10 mmol) of 7-chloro-3-ethynyl-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one was dissolved in 20 ml of N,N-dimethylformamide. 1.31 g (30 mmol) of sodium hydride dispersion (55% in oil) was washed with n-hexane and then introduced at room temperature into the above solution. After 10 minutes 0.95 ml (15 mmol) of methyl iodide was added thereto and the mixture was stirred at room temperature for a further 3 hours. The reaction mixture was poured into 300 ml of water and extracted four times with methylene chloride. The organic extracts were washed four times with water and dried over magnesium sulphate. After chromatography of the residue on silica gel while eluting with ethyl acetate and recrystallization from ethyl acetate, there was obtained 7-chloro-4,5-dihydro-5-methyl-3-(1-propynyl)-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 243°-244°.

reactant | 7-chloro-3-ethynyl-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 10 mmol, 2.72 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C#C)C)=O | C14H10ClN3O
reactant | sodium hydride | 30 mmol, 1.31 g | [H-].[Na+]
reactant | methyl iodide | 15 mmol, 0.95 ml | CI | CH3I
reactant | water | 300 ml | O | H2O
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | n-hexane | CCCCCC | C6H14
product | 7-chloro-4,5-dihydro-5-methyl-3-(1-propynyl)-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C#CC)C)=O | C15H12ClN3O
